US05767139
3-[(2,2-Diphenyl-1,3-benzodioxolan-5-yl) methylcarbonyl]indole
The title compound was prepared by a similar method to that of Preparation 4 using indole and (2,2-diphenyl-1,3-benzodioxolan-5-yl)acetyl chloride (prepared from the corresponding carboxylic acid [see Preparation 7] by a similar method to that of Preparation 3) as the starting materials.

reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | (2,2-diphenyl-1,3-benzodioxolan-5-yl)acetyl chloride | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)CC(=O)Cl)C2=CC=CC=C2 | C21H15ClO3
product | 3-[(2,2-Diphenyl-1,3-benzodioxolan-5-yl) methylcarbonyl]indole | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)CC(=O)C2=CNC1=CC=CC=C21)C2=CC=CC=C2 | C29H21NO3
